US07846959B2
A suspension of 2-(4-chloro-3-nitrobenzoyl)benzoic acid (0.31 g 1.00 mmol) and glycine ethyl ester hydrochloride (0.69 g, 5.00 mmol) in a solution of 4M aqueous potassium hydroxide (3.8 mL, 15.0 mmol) was heated to 90° C. for 15 hours. The reaction mixture was cooled to room temperature and it was treated with 2M aqueous hydrochloric acid to adjust the pH to ˜5. It was partitioned with ethyl acetate (50 mL) and the organic layer was washed with brine and dried over anhydrous sodium sulfate. Filtration and concentration of the solvent gave 2-({4-[(carboxymethyl)amino]-3-nitrophenyl}carbonyl)benzoic acid (0.26 g, 76% yield) as a white residue. MS (EI) for C16H12N2O7: 342 (M−).

reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 1.00 mmol, 0.31 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
reactant | glycine ethyl ester hydrochloride | 5.00 mmol, 0.69 g | Cl.C(C)OC(CN)=O
reactant | potassium hydroxide | 15.0 mmol, 4M, 3.8 mL | [OH-].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
product | 2-({4-[(carboxymethyl)amino]-3-nitrophenyl}carbonyl)benzoic acid | 0.26 g, 76% yield | C(=O)(O)CNC1=C(C=C(C=C1)C(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C16H12N2O7
